US04051176
To a stirred solution of 4.0 g of 8,8'-[(5-amino-1,3-phenylene)bis(carbonylimino)]di-1,3,6-naphthalenetrisulfonic acid, hexasodium salt in 50 ml of water is added 4.0 ml of 3-trifluoromethylphenyl isocyanate. Stirring is continued for 6 hours at room temperature then the resulting mixture is heated to 95° C, is filtered through diatomaceous earth and washed with 50 ml of hot water. The hot filtrate is salted with 55 g of sodium acetate trihydrate and after standing for 40 hours is diluted with 700 ml of anhydrous ethanol. The precipitate is filtered and washed with absolute ethanol and ether. The product is then boiled and triturated with 100 ml of absolute ethanol, cooled to room temperature and is filtered and washed with absolute ethanol followed by ether to give 8,8'-{{5-[3-(α,α,α-trifluoro-m-tolyl)ureido]-1,3-phenylene}bis(carbonylimino)}di-1,3,6-naphthalenetrisulfonic acid, hexasodium salt.

reactant | 8,8'-[(5-amino-1,3-phenylene)bis(carbonylimino)]di-1,3,6-naphthalenetrisulfonic acid | 4.0 g | NC=1C=C(C=C(C1)C(=O)NC=1C=C(C=C2C=C(C=C(C12)S(=O)(=O)O)S(=O)(=O)O)S(=O)(=O)O)C(=O)NC=1C=C(C=C2C=C(C=C(C12)S(=O)(=O)O)S(=O)(=O)O)S(=O)(=O)O | C28H21N3O20S6
reactant | 3-trifluoromethylphenyl isocyanate | 4.0 ml | FC(C=1C=C(C=CC1)N=C=O)(F)F | C8H4F3NO
solvent | water | 50 ml | O | H2O
product | 8,8'-{{5-[3-(α,α,α-trifluoro-m-tolyl)ureido]-1,3-phenylene}bis(carbonylimino)}di-1,3,6-naphthalenetrisulfonic acid | FC(C1=CC(=CC=C1)NC(NC=1C=C(C=C(C1)C(=O)NC=1C=C(C=C2C=C(C=C(C12)S(=O)(=O)O)S(=O)(=O)O)S(=O)(=O)O)C(=O)NC=1C=C(C=C2C=C(C=C(C12)S(=O)(=O)O)S(=O)(=O)O)S(=O)(=O)O)=O)(F)F | C36H25F3N4O21S6
